US05270311
A solution of 4-hydroxyphenoxyacetic acid (33.6 g) in methanol was treated with hydrogen chloride gas and left to stand at ambient temperature overnight. The solvent was removed in vacuo and the residue taken up in ethyl acetate. This solution was washed sequentially with saturated sodium hydrogen carbonate solution (2×100 ml) and brine (100 ml), then dried (MGSO4) and the solvent evaporated to give methyl 4-hydroxyphenoxyacetate as a colourless crystalline mass, m.p. 112°-114° C.; NMR: 3.8 (s, 3H, CH3), 4.55 (s, 2H, CH2), 6.75 (s, 4H, phenyl-H) 6.8-7.8 (broad s, 1H, OH); m/e 200 (M+NH4)+.

reactant | 4-hydroxyphenoxyacetic acid | 33.6 g | OC1=CC=C(OCC(=O)O)C=C1 | C8H8O4
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | CO | CH4O
product | methyl 4-hydroxyphenoxyacetate | OC1=CC=C(OCC(=O)OC)C=C1 | C9H10O4
